US08067408B2
N-{[1,6-Diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}-5-methyl-N′-{[6-(methyloxy)-3′-(1-piperazinylmethyl)-3-biphenylyl]methyl}-1,3-benzenedicarboxamide
N-{[1,6-Diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}-N′-{[3′-formyl-6-(methyloxy)-3-biphenylyl]methyl}-5-methyl-1,3-benzenedicarboxamide (40.1 mg. 0.06 mmol) was diluted in DMSO (1.5 mL) and dispensed into a 1 dram vial, with fitted magnetic stir bar, containing piperazine (0.18 mmol), and acetic acid (3.6 mg, 0.6 mmol). The resulting solution was stirred at room temperature for 4 h. MP-B(OAc)3H (0.6 mmol, 140 mg) was added and the solution was stirred for another 12 h. The polymer reagent was filtered and purification was completed via Gilson HPLC (with 0.1% TFA in the solvents). The product was dissolved in 3 mL of MeOH and passed through 0.5 g amine columns (washed with 8 mL MeOH) to afford 29.8 mg (65.3%) of the title compound. LC-MS m/z 760 (M+H)+, 1.224 min (ret time).

reactant | N-{[1,6-Diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}-N′-{[3′-formyl-6-(methyloxy)-3-biphenylyl]methyl}-5-methyl-1,3-benzenedicarboxamide | 0.06 mmol, 40.1 mg | C(C)N1N=CC=2C1=NC(=C(C2NC2CCOCC2)CNC(=O)C2=CC(=CC(=C2)C)C(=O)NCC=2C=C(C(=CC2)OC)C2=CC(=CC=C2)C=O)CC | C40H44N6O5
reactant | piperazine | 0.18 mmol | N1CCNCC1 | C4H10N2
reactant | acetic acid | 0.6 mmol, 3.6 mg | C(C)(=O)O | C2H4O2
solvent | DMSO | 1.5 mL | CS(=O)C | C2H6OS
product | N-{[1,6-Diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}-5-methyl-N′-{[6-(methyloxy)-3′-(1-piperazinylmethyl)-3-biphenylyl]methyl}-1,3-benzenedicarboxamide | 29.8 mg, 65.3% | C(C)N1N=CC=2C1=NC(=C(C2NC2CCOCC2)CNC(=O)C2=CC(=CC(=C2)C)C(=O)NCC=2C=C(C(=CC2)OC)C2=CC(=CC=C2)CN2CCNCC2)CC | C44H54N8O4
